US06071927
5-Benzyloxy-2-isopropoxynitrobenzene
2-Bromopropane (4.51 mL, 5.90 g, 48 mmol) was added to a mixture of 4-benzyloxy-2-nitrophenol (J.Biol.Chem., 1985, 260, 3440, 2.94 g, 12 mmol) and potassium carbonate (9.95 g, 72 mmol) in dimethylformamide (20 mL) and the mixture was stirred at 50° C. for 22 h. The mixture was cooled, diluted with water (100 mL) and extracted with ethyl acetate (3×100 mL). The combined organic fractions were washed with aqueous sodium hydroxide (1M, 4×100 mL) and brine (100 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as an orange oil (3.40 g, 99%). 1H NMR (360 MHz, CDCl3) δ 7.41-7.33 (6H, m), 7.12 (1H, dd, J 9.1, 3.1 Hz), 7.02 (1H, d, J 9.1 Hz), 5.05 (2H, s), 4.52 (1H, hept, J 6.1 Hz), and 1.35 (6H, d, J 6.1 Hz).

reactant | 2-Bromopropane | 48 mmol, 4.51 mL, 5.90 g | BrC(C)C | C3H7Br
reactant | 4-benzyloxy-2-nitrophenol | 12 mmol, 2.94 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)O)[N+](=O)[O-] | C13H11NO4
reactant | potassium carbonate | 72 mmol, 9.95 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | 5-Benzyloxy-2-isopropoxynitrobenzene | 3.40 g, 99% | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)[N+](=O)[O-])OC(C)C | C16H17NO4
